US07709503B2
Intermediate 123: Ethyl 4-(2-methoxyethoxy)-3-oxobutanoate
2,2-Dimethyl-1,3-dioxane-4,6-dione (1.72 g) was suspended in anhydrous pyridine (20 ml) and cooled to 0° C. (2-methoxyethoxy)acetyl chloride (2 g) was added slowly. The mixture was stirred at room temperature for 3 h. The mixture was poured into 2 N HCl (30 ml) and extracted with DCM (×3). The combined organic phase was washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The orange oil was dissolved in EtOH (20 ml) and was refluxed for 7 h. The solvent was removed in vacuo and the brown oil was Kugelrohr distilled affording the title compound as a colourless oil (1.55 g).

reactant | 2,2-Dimethyl-1,3-dioxane-4,6-dione | 1.72 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | (2-methoxyethoxy)acetyl chloride | 2 g | COCCOCC(=O)Cl | C5H9ClO3
reactant | HCl | 2 N, 30 ml | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-(2-methoxyethoxy)-3-oxobutanoate | 1.55 g | COCCOCC(CC(=O)OCC)=O | C9H16O5
